US04055592
Step B: 3-Pyridylmethyl (3-Trifluoromethylphenoxy)(4-chlorophenyl)acetate hydrochloride
A solution of 3-pyridylcarbinol (5.7 g., 0.0522 mole) in triethylamine (144 ml., 0.13 mole) is cooled to -15° C. To this solution is added (3-trifluoromethylphenoxy)(4-chlorophenyl)acetyl chloride (18 g., 0.0515 mole) in ether (25 ml.). The reaction mixture is stirred for four hours at -5° C. and then at room temperature for 4 hours. The reaction mixture is filtered and the filtrate is washed successively with water, dilute sodium bicarbonate and then water until neutral. The ether solution is dried over magnesium sulfate filtered and to this solution is added ethanolic HCl. An oil separated which slowly crystallized. The solid is collected and recrystallized from a mixture of of isopropanol (30 ml.) and ether (30 ml.) to afford 8.6 g. of product. A small sample recrystallized for analysis has a melting point of 147°-149° C.

reactant | 3-pyridylcarbinol | 0.0522 mole, 5.7 g | N1=CC(=CC=C1)CO | C6H7NO
reactant | triethylamine | 0.13 mole, 144 ml | C(C)N(CC)CC | C6H15N
reactant | (3-trifluoromethylphenoxy)(4-chlorophenyl)acetyl chloride | 0.0515 mole, 18 g | FC(C=1C=C(OC(C(=O)Cl)C2=CC=C(C=C2)Cl)C=CC1)(F)F | C15H9Cl2F3O2
solvent | ether | 25 ml | CCOCC | C4H10O
product | 3-Pyridylmethyl (3-Trifluoromethylphenoxy)(4-chlorophenyl)acetate hydrochloride | Cl.FC(C=1C=C(OC(C(=O)OCC=2C=NC=CC2)C2=CC=C(C=C2)Cl)C=CC1)(F)F | InChI=1S/C21H15ClF3NO3.ClH/c22-17-8-6-15(7-9-17)19(20(27)28-13-14-3-2-10-26-12-14)29-18-5-1-4-16(11-18)21(23,24)25;/h1-12,19H,13H2;1H
